US04154947
Preparation of 1-(2,6-Dichlorobenzylideneamino)-3-(2-thenyl)guanidine
A solution of 5.85 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide and 3.39 g. of 2-(aminomethyl)thiophene in 25 ml. of absolute ethanol is heated under reflux for 16 hours, diluted with water and excess 10N sodium hydroxide is added. After standing, crystallization occurs, and filtration gives 3.50 g. of nearly colorless crystals. Recrystallization from aqueous ethanol gives the desired product as colorless crystals, m.p. 135°-137° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | 2-(aminomethyl)thiophene | NCC=1SC=CC1 | C5H7NS
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | sodium hydroxide | 10N | [OH-].[Na+]
product | 1-(2,6-Dichlorobenzylideneamino)-3-(2-thenyl)guanidine | ClC1=C(C=NNC(=N)NCC2=CC=CS2)C(=CC=C1)Cl | C13H12Cl2N4S
